US07598417B2
4-Fluoro-indan-2-carboxylic acid:
4-Fluoro-indan-2-carboxylic acid methyl ester in HOAc containing 20% HCl was hydrolyzed according to the protocols as outlined in general procedure G to afford the desired title acid. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ 3.09-3.23 (m, 4H), 3.29-3.40 (m, 1H), 7.0 (t, 1H, J=8.5 Hz), 7.1 (d, 1H, J=7.3 Hz), 7.14-7.24 (m, 1H), 12.4 (br s, 1H).

reactant | 4-Fluoro-indan-2-carboxylic acid methyl ester | COC(=O)C1CC2=CC=CC(=C2C1)F | C11H11FO2
solvent | HOAc | CC(=O)O | C2H4O2
product | 4-Fluoro-indan-2-carboxylic acid | FC1=C2CC(CC2=CC=C1)C(=O)O | C10H9FO2
